US05614531
8.5 g of 2-amino-4-cyanopyridine and 27.5 g of 4-bromoacetylbenzoic acid are boiled in 260 ml of ethanol for 20 h. After cooling, the precipitate is filtered off with suction and subjected to the customary working-up. 4-(7-Cyanoimidazo[1,2-a]pyridin-2-yl)benzoic acid hydrobromide is obtained, m.p. >310°.

reactant | 2-amino-4-cyanopyridine | 8.5 g | NC1=NC=CC(=C1)C#N | C6H5N3
reactant | 4-bromoacetylbenzoic acid | 27.5 g | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 4-(7-Cyanoimidazo[1,2-a]pyridin-2-yl)benzoic acid hydrobromide | Br.C(#N)C1=CC=2N(C=C1)C=C(N2)C2=CC=C(C(=O)O)C=C2 | InChI=1S/C15H9N3O2.BrH/c16-8-10-5-6-18-9-13(17-14(18)7-10)11-1-3-12(4-2-11)15(19)20;/h1-7,9H,(H,19,20);1H
